US04933453
3-[4-[1-(2-Methoxyphenyl)-4-piperazinyl]butyl]-2-Methyl-4-thiazolidinone
A suspension of 2-methyl-3-(4-bromobutyl)-4-thiazolidinone (3.0 g), 1-(2-methoxyphenyl)piperazine (2.3 g), anhydrous K2CO3 (3.5 g) and NaI (200 mg) in 100 ml of anhydrous CH3CN was heated to 80° under N2. After 4 hours no starting material remained as judged by TLC. The mixture was cooled to room temperature, filtered and concentrated in vacuo. The residue was chromatographed on silica, using EtOAc as the eluent. This provided 2.18 g of product as a clear oil which solidified in vacuo (0.1 mmHg) overnight.

reactant | 2-methyl-3-(4-bromobutyl)-4-thiazolidinone | 3.0 g | CC1SCC(N1CCCCBr)=O | C8H14BrNOS
reactant | 1-(2-methoxyphenyl)piperazine | 2.3 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[4-[1-(2-Methoxyphenyl)-4-piperazinyl]butyl]-2-Methyl-4-thiazolidinone | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN1C(SCC1=O)C | C19H29N3O2S
